US09404081B2
To a stirred solution of 3,8-dibenzyl-3,8-diazabicyclo[3.2.1]octane-2,4-dione (0.00025 mol, 80 mg) in MeOH (2 mL) containing few drops of HCl was hydrogenated with 10% Pd—C (8 mg) for 4 h at room temperature. After completion of the reaction (checked by TLC), the reaction mixture was filtered through celite and the filtrate was concentrated under reduced pressure. The crude residue was purified by column chromatography (silica gel, 60-120 mesh; EA-Hexane, 6:4) to afford the 3-benzyl-3,8-diazabicyclo[3.2.1]octane-2,4-dione (LXVI) in 80% yield.

reactant | 3,8-dibenzyl-3,8-diazabicyclo[3.2.1]octane-2,4-dione | 0.00025 mol, 80 mg | C(C1=CC=CC=C1)N1C(C2CCC(C1=O)N2CC2=CC=CC=C2)=O | C20H20N2O2
reactant | HCl | Cl | ClH
solvent | MeOH | 2 mL | CO | CH4O
catalyst | Pd—C | 8 mg | [Pd] | Pd
product | 3-benzyl-3,8-diazabicyclo[3.2.1]octane-2,4-dione | 80% yield | C(C1=CC=CC=C1)N1C(C2CCC(C1=O)N2)=O | C13H14N2O2
